US04742056
profenofos;
trifenophos; bromophos; mercaptoprophos; methylparathion; parathion; chlorthion; fenitrothion; fenchlorphos; fenthion; cyanophos; dichlofenthion; fenamiphos; fonofos; jodfenfos; temephos; prothiophos; isofenphos; fensulfothion and lepthophos.

reactant | bromophos | COP(=S)(OC)OC=1C=C(C(=CC1Cl)Br)Cl | C8H8BrCl2O3PS
reactant | methylparathion | COP(=S)(OC)OC1=CC=C(C=C1)[N+](=O)[O-] | C8H10NO5PS
reactant | parathion | CCOP(=S)(OCC)OC=1C=CC(=CC1)[N+](=O)[O-] | C10H14NO5PS
reactant | chlorthion | COP(=S)(OC)OC=1C=CC(=C(C1)Cl)[N+](=O)[O-] | C8H9ClNO5PS
reactant | fenitrothion | CC=1C=C(C=CC1[N+](=O)[O-])OP(=S)(OC)OC | C9H12NO5PS
reactant | fenchlorphos | COP(=S)(OC)OC=1C=C(C(=CC1Cl)Cl)Cl | C8H8Cl3O3PS
reactant | fenthion | CC=1C=C(C=CC1SC)OP(=S)(OC)OC | C10H15O3PS2
reactant | cyanophos | COP(=S)(OC)OC=1C=CC(=CC1)C#N | C9H10NO3PS
reactant | dichlofenthion | CCOP(=S)(OCC)OC=1C=CC(=CC1Cl)Cl | C10H13Cl2O3PS
reactant | fenamiphos | CCOP(=O)(N(C=1C=CC(=C(C1)C)SC)C(C)C)O | C13H22NO3PS
reactant | fonofos | CCOP(=S)(CC)SC1=CC=CC=C1 | C10H15OPS2
reactant | temephos | COP(=S)(OC)OC1=CC=C(C=C1)SC2=CC=C(C=C2)OP(=S)(OC)OC | C16H20O6P2S3
reactant | prothiophos | CCCSP(=S)(OCC)OC1=C(C=C(C=C1)Cl)Cl | C11H15Cl2O2PS2
reactant | isofenphos | CCOP(=S)(NC(C)C)OC=1C=CC=CC1C(=O)OC(C)C | C15H24NO4PS
reactant | fensulfothion | CCOP(=S)(OCC)OC1=CC=C(C=C1)S(=O)C | C11H17O4PS2
product | profenofos | CCCSP(=O)(OCC)OC=1C=CC(=CC1Cl)Br | C11H15BrClO3PS
